US08912181B2
EDCI hydrochloride (22.0 g) and 1-hydroxybenzotriazole (11.4 g) were added to a solution of 2-amino-3-chlorobenzoic acid (12.8 g) in DMF (100 mL), and subsequently ammonia water (22.0 ml) was added thereto. The reaction solution was stirred at room temperature for 3 hours. Water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 2-amino-3-chlorobenzamide (9.7 g). Iron(III) chloride hexahydrate (6.3 g) and cyclopropanecarbaldehyde (1.3 ml) were added to a suspension of the obtained 2-amino-3-chlorobenzamide (2.0 g) in water (30 ml), and the mixture was stirred overnight at 100° C. After cooling, water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 8-chloro-2-cyclopropylquinazolin-4(1H)-one (2.0 g). Compound (115) was obtained as a yellow solid (yield based on 6 steps: 18%) according to Example 114(2) using the obtained 8-chloro-2-cyclopropylquinazolin-4(1H)-one instead of compound (114a).

reactant | EDCI hydrochloride | 22.0 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole | 11.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-amino-3-chlorobenzoic acid | 12.8 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | ammonia water | 22.0 ml | O.N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-amino-3-chlorobenzamide | 9.7 g | NC1=C(C(=O)N)C=CC=C1Cl | C7H7ClN2O
